US04937252
Preparation of 3-(4-methylphenylmethyl)-2-thiazolidinone
The procedure of Example 2 is followed, 4.0 g (0.022 mol) of N-(4-methylphenylmethyl)cysteamine are reacted with 4.71 g (0.022 mol) of diphenyl carbonate then the reaction mixture is worked up to give 1.36 g (29.8%) of the title compound, m.p.: 49°-50° C.

reactant | N-(4-methylphenylmethyl)cysteamine | 0.022 mol, 4.0 g | CC1=CC=C(C=C1)CNCCS | C10H15NS
reactant | diphenyl carbonate | 0.022 mol, 4.71 g | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
product | 3-(4-methylphenylmethyl)-2-thiazolidinone | 1.36 g, 29.8% | CC1=CC=C(C=C1)CN1C(SCC1)=O | C11H13NOS
